US08372842B2
30% H2O2 (0.67 mL, 7.0 mmol) was added to a solution of LiOH—H2O (0.24 g, 5.60 mmol) in THF/water (2:1, 93 mL), and the solution was stirred at room temperature for 10 minutes. The solution was then cooled to 0° C. and treated with a solution of (S)-tert-butyl 5-((S)-2-((R)-4-benzyl-2-oxooxazolidin-3-yl)-1-(4-bromophenyl)-2-oxoethyl)-2,2-dimethylpyrrolidine-1-carboxylate (1.60 g, 2.80 mmol) in THF (10 mL). The reaction was stirred at 0° C. for 2 hours and allowed to warm to room temperature and stirred overnight. The reaction was then cooled to 0° C. and treated with 1M Na2SO3 (10 mL) and stirred for 10 minutes. The reaction was then warmed to room temperature and stirred for 10 minutes. The reaction was next concentrated and extracted with EtOAc (2×20 mL). The aqueous layer was then acidified with 1N HCl to a pH of about 1 to about 2 and extracted with DCM (2×20 mL). The combined DCM fractions were dried over sodium sulfate, filtered, and concentrated to give (S)-2-(4-bromophenyl)-2-((S)-1-(tert-butoxycarbonyl)-5,5-dimethylpyrrolidin-2-yl)acetic acid (1.01 g, 87% yield) as a solid. MS ESI (+) m/z 412 detected.

reactant | H2O2 | 7.0 mmol, 0.67 mL | OO | H2O2
reactant | LiOH—H2O | 5.60 mmol, 0.24 g | O[Li].O
reactant | (S)-tert-butyl 5-((S)-2-((R)-4-benzyl-2-oxooxazolidin-3-yl)-1-(4-bromophenyl)-2-oxoethyl)-2,2-dimethylpyrrolidine-1-carboxylate | 2.80 mmol, 1.60 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C1=CC=C(C=C1)Br)[C@@H]1CCC(N1C(=O)OC(C)(C)C)(C)C)=O | C29H35BrN2O5
reactant | Na2SO3 | 1M, 10 mL | [O-]S(=O)[O-].[Na+].[Na+]
solvent | THF water | 93 mL | C1CCOC1.O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (S)-2-(4-bromophenyl)-2-((S)-1-(tert-butoxycarbonyl)-5,5-dimethylpyrrolidin-2-yl)acetic acid | 1.01 g, 87% yield | BrC1=CC=C(C=C1)[C@H](C(=O)O)[C@H]1N(C(CC1)(C)C)C(=O)OC(C)(C)C | C19H26BrNO4
